US09326973B2
To a solution of (S)-1-phenylethyl 3,3-difluorocyclopentanecarboxylate (diastereomer-1 or diastereomer-2, 0.15 g) in ethanol (5 mL) was added 10% Pd—C. The reaction mixture was stirred at rt under H2 for 16 h. The reaction mixture was filtered and the filtrate was concentrated to afford corresponding enantiomers of 3,3-difluorocyclopentanecarboxylic acid. 1H NMR (400 MHz, METHANOL-d4) ppm 2.97-3.08 (1H, m), 2.28-2.41 (2H, m), 1.93-2.23 (4H, m).

reactant | (S)-1-phenylethyl 3,3-difluorocyclopentanecarboxylate | 0.15 g | FC1(CC(CC1)C(=O)O[C@@H](C)C1=CC=CC=C1)F | C14H16F2O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Pd—C | [Pd] | Pd
product | 3,3-difluorocyclopentanecarboxylic acid | FC1(CC(CC1)C(=O)O)F | C6H8F2O2
